US07414061B2
5-Ethyl-3-(4-fluoro-phenyl)-4-[1-(4-nitro-phenyl)-1H-imidazol-4-yl]-isoxazole
As described for 1f, 1-fluoro-4-nitro-benzene was converted, using 5-ethyl-3-(4-fluoro-phenyl)-4-(1H-imidazole-4-yl)-isoxazole (100 mg, 0.39 mmol) instead of 4-(1H-imidazol-4-yl)-3-phenyl-isoxazole was converted to the title compound (43 mg, 28%) which was obtained as an off-white solid. MS: m/e=379.1.1 [M+H]+.

reactant | 1-fluoro-4-nitro-benzene | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | 5-ethyl-3-(4-fluoro-phenyl)-4-(1H-imidazole-4-yl)-isoxazole | 0.39 mmol, 100 mg | C(C)C1=C(C(=NO1)C1=CC=C(C=C1)F)C=1N=CNC1 | C14H12FN3O
product | 5-Ethyl-3-(4-fluoro-phenyl)-4-[1-(4-nitro-phenyl)-1H-imidazol-4-yl]-isoxazole | 43 mg, 28% | C(C)C1=C(C(=NO1)C1=CC=C(C=C1)F)C=1N=CN(C1)C1=CC=C(C=C1)[N+](=O)[O-] | C20H15FN4O3
